US04794183
dl-(trans-2-Hexadecyloxymethyltetrahydropyran-3-yl) 2-pyridinioethyl phosphate
1.512 g of dl-trans-2-hexadecyloxymethyltetrahydropyran-3-yl 2-bromoethyl phosphate (prepared as described in the first half of Example 1) was dissolved in 20 ml of pyridine, and the resulting solution was heated, with stirring, at 80° C. for 20 hours. The mixture was then cooled and the pyridine was removed by distillation under reduced pressure. The residue was subjected to column chromatography through 45 g of silica gel. The fraction eluted with a 60:35:5 by volume mixture of methylene chloride, methanol and water gave 1.422 g of the title compound as a white powder, melting at 123°-129° C.

reactant | trans-2-hexadecyloxymethyltetrahydropyran-3-yl 2-bromoethyl phosphate | P(=O)(O[C@H]1[C@@H](OCCC1)COCCCCCCCCCCCCCCCC)(OCCBr)[O-]
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (trans-2-Hexadecyloxymethyltetrahydropyran-3-yl) 2-pyridinioethyl phosphate | 1.422 g | P(=O)(O[C@H]1[C@@H](OCCC1)COCCCCCCCCCCCCCCCC)(OCC[N+]1=CC=CC=C1)[O-] | C29H52NO6P
